US05274002
3-(3-Cyclopentoxy-4-methoxyphenyl)-1-propyl bromide
To a stirred solution of 3.3 g (13.2 mmol) of 3-(3-cyclopentoxy-4-methoxyphenyl)-1-propanol in 75 mL of dry methylene chloride at 0° C. under a nitrogen atmosphere was added 4.3 g (16.4 mmol) of triphenylphosphine followed by a slow, portionwise addition of N-bromosuccinimide over a 5 minute period. The reaction mixture was stirred at 0° C. for 1.5 hours at the end of which time the mixture was quenched with excess methanol and stirred for an additional 10 minutes. Concentration of the mixture to dryness followed by liquid chromatography purification using 200 g of silica gel and elution 50% chloroform in hexane provided an analytically pure oil upon drying in vacuo.

reactant | 3-(3-cyclopentoxy-4-methoxyphenyl)-1-propanol | 13.2 mmol, 3.3 g | C1(CCCC1)OC=1C=C(C=CC1OC)CCCO | C15H22O3
reactant | triphenylphosphine | 16.4 mmol, 4.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-Cyclopentoxy-4-methoxyphenyl)-1-propyl bromide | C1(CCCC1)OC=1C=C(C=CC1OC)CCCBr | C15H21BrO2
